US05561146
B. N-[(Phenylmethoxy)-carbonyl]-D-phenylalanyl-L-proline Methyl Ester
To a solution of N-CBZ-D-phenylalanine (47.3 g, 0.158 mmol) in DMF (300 mL) at 0° C., was added L-proline-methylester.HCl (25.0 g, 0.151 mmol), 1-hydroxybenzotriazole hydrate (20.28 g, 0.166 mmol), ethyl-3-(3-dimethylamino)-propyl carbodiimide.HCl (31.8 g, 0.166 mmol) and 4-methylmorpholine (16.0 g, 0.159 mmol). The reaction mixture was stirred for 8 h while allowing the reaction to warm to room temperature. The reaction mixture was poured in water (1.2 L) and extracted with ethyl acetate (3×300 mL). The combined organic extracts were washed as follows: KHSO4 (0.25M, 2×200 mL), water (1×200 mL), saturated aqueous NaHCO3 (2×200 mL) and saturated NaCl (1×200 mL). The organic layer was dried over MgSO4, filtered and the solvent removed in vacuo to give title compound, 60.9 g (98 %), as an oil.

reactant | N-CBZ-D-phenylalanine | 0.158 mmol, 47.3 g | C(=O)(OCC1=CC=CC=C1)N[C@H](CC1=CC=CC=C1)C(=O)O | C17H17NO4
reactant | L-proline-methylester | COC([C@H]1NCCC1)=O | C6H11NO2
reactant | HCl | 0.151 mmol, 25.0 g | Cl | ClH
reactant | 1-hydroxybenzotriazole hydrate | 0.166 mmol, 20.28 g | O.ON1N=NC2=C1C=CC=C2
reactant | HCl | 0.166 mmol, 31.8 g | Cl | ClH
reactant | 4-methylmorpholine | 0.159 mmol, 16.0 g | CN1CCOCC1 | C5H11NO
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
solvent | water | 1.2 L | O | H2O
product | N-[(Phenylmethoxy)-carbonyl]-D-phenylalanyl-L-proline Methyl Ester | COC([C@H]1N(CCC1)C([C@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O)=O | C23H26N2O5
